US08076516B2
N-(3-Bromobenzyl)-2,2,2-trifluoroacetamide was coupled with 4-ethynylheptan-4-ol following the procedure described in Example 140 to give 2,2,2-trifluoro-N-(3-(3-hydroxy-3-propylhex-1-ynyl)benzyl)acetamide as a yellow oil. Yield (0.462 g, 38%): 1H NMR (400 MHz, DMSO-d6) δ 9.97 (t, J=5.6 Hz, 1H), 7.32 (t, J=7.8 Hz, 1H), 7.27-7.22 (m, 3H), 5.15 (bs, 1H), 4.35 (d, J=6.0 Hz, 2H), 1.60-1.41 (m, 8H), 0.89 (t, J=7.2 Hz, 6H).

reactant | N-(3-Bromobenzyl)-2,2,2-trifluoroacetamide | BrC=1C=C(CNC(C(F)(F)F)=O)C=CC1 | C9H7BrF3NO
reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
product | 2,2,2-trifluoro-N-(3-(3-hydroxy-3-propylhex-1-ynyl)benzyl)acetamide | FC(C(=O)NCC1=CC(=CC=C1)C#CC(CCC)(CCC)O)(F)F | C18H22F3NO2
